US08034814B2
3f) 1-(4-tert-Butyl-anilino)-4-[6-methoxy-(pyridin-3-yl)-methyl]-phthalazine
Under N2 atmosphere, 0.40 g (2.7 mMol) of 4-tert-butyl-aniline and 0.62 ml 4 N HCl/dioxane are added to 750 mg (2.6 mMol) of 1-chloro-4-[6-methoxy-pyridin-3-yl)methyl]phthalazine in 11 ml of methanol, and the mixture is stirred for 2 h at 65° C. After cooling, the resulting yellow solution is diluted with EtOAc, 20 ml of water and 10 ml of 2.5% NH3 solution, and the aqueous phase is removed and extracted twice with EtOAc. The organic phases are washed with water and brine, dried and partially evaporated with a RE. After addition of DIPE to the remnant, the title compound crystallizes out: FAB-MS: (M+H)+=399; HPLC(Grad20-100) tRet=11.9.

reactant | 4-tert-butyl-aniline | 2.7 mMol, 0.40 g | C(C)(C)(C)C1=CC=C(N)C=C1 | C10H15N
reactant | HCl dioxane | 4 N, 0.62 ml | Cl.O1CCOCC1
reactant | phthalazine | C1=NN=CC2=CC=CC=C12 | C8H6N2
solvent | methanol | 11 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | NH3 | 10 ml | N | H3N
product | 1-(4-tert-Butyl-anilino)-4-[6-methoxy-(pyridin-3-yl)-methyl]-phthalazine | C(C)(C)(C)C1=CC=C(NC2=NN=C(C3=CC=CC=C23)CC=2C=NC(=CC2)OC)C=C1 | C25H26N4O
